US08003785B2
To a mixture of 0.075 g (0.19 mmole) of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (I-131) and 0.09 g (0.24 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate and 2 mL of dimethylformamide was added 0.06 mL (0.37 mmole) of diisopropylethylamine. The mixture was stirred for 30 minutes and then 0.14 mL (0.28 mmole) of 2M methylamine in tetrahydrofuran was added. The mixture was stirred at room temperature for 18 hours. The mixture was diluted with ethyl acetate and water and the aqueous phase was extracted twice with ethyl acetate. The combined organic layers were washed with water, then brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with ethyl acetate to give 0.015 g of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-methyl-benzamide (I-133).

reactant | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | 0.19 mmole, 0.075 g | C1(CCCC1)N1C2=C(NC(C(C1)(F)F)=O)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C19H19F2N5O3
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.24 mmole, 0.09 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | diisopropylethylamine | 0.37 mmole, 0.06 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine | 0.28 mmole, 2M, 0.14 mL | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-methyl-benzamide | 0.015 g | C1(CCCC1)N1C2=C(NC(C(C1)(F)F)=O)C=NC(=N2)NC2=CC=C(C(=O)NC)C=C2 | C20H22F2N6O2
